Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
code stroke: diplopia, slurred speech
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The pt is a ___ year-old right-handed woman with past medical
history significant for HLD, hypothyroidism, and temporal lobe
epilepsy who presents at ___ as a code stroke for lethargy,
vision problems, diplopia and slurred speech.

Her story is somewhat confusing, she was normal this morning 
when
she woke up, and was driving when she first thought the sun was
bothering her eyes.  She was driving in the the sun and felt 
that
the light was too great and was making it difficulty to see. 
When she put the visor down she realized that it wasn't only the
sun that was causing her vision trouble.  She had the sensation
that one eye was being pushed up (she thinks it was her right
eye) and one eye was being pulled down.  It is not clear what 
she
means by this.  At the time she does not think she has double
vision, but cannot explain the vision problem well.  She doesn't
believe that there was any part of her vision that was missing,
and doesn't think the vision difficultly was on one side or the
other.  She didn't test each eye individually.  She pulled over
out of concern that she would crash and looked for her cell 
phone
to call her family, but she had left it at home .  She then
decided to drive home on her own.  She was able to get home with
her vision difficulty, however was very anxious on the ride back
and felt that she had generalized weakness.

When she got home she tried to get out of the car and had
difficulty and fell to the floor.  She did not hit her head and
it was a short distance and she didn't injure herself.  When she
attempted to walk she felt unsteady, and weak.  She felt like 
her legs were "drunk" and may have had a brief sensation of 
vertigo.  At this time her
husband found her.  He noted when she tried to talk that her
words were difficult to understand.  He was only able to make 
out
a few words.  She also noted that her speech sounded strange, 
and
she described a feeling of being unable to produce the correct
words, and felt that she could not put a whole sentence together
and was limited to short phrases of 3 words or less.  Her 
husband
also felt there may have been some drooping of the right side of
the face and the patient remembered there was some drooling out
the right side of her mouth.  Her husband thinks she was able to
understand and follow simple commands, the patient notes she was
very anxious at this time, and does not remember what her 
husband
said to her.  Given these symptoms they put her back in the car
and drove her to ___.  While in the car she noted that she was
having double vision.  She saw street signs one above the other. 

She didn't test if it improved by closing one eye.  This lasted
for at least 15 minutes.  Both her speech difficulty and her
vision problems started to resolved while she was in the car. 
She was nearly back to baseline when she arrived in the ED where
she was called as a code stroke.

She had an ___ stroke scale of 0.  Her exam was notable 
initially
for mild slowing of speech, and occasionally would drop an
article such as "the" or "my".  This rapidly resolved. 

 
Past Medical History:
- hypothyroidism
- partial seizures (she reports episodes at night where she 
bites
her lip has not had an episode for some time)
- HLD
- GERD 
 
Social History:
___
Family History:
Multiple members of family with cardiac risk factors,
stroke and ICH.  Father died of an MI, sisters with HTN.
 
Physical Exam:
Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Initially on speaking with patient she had somewhat
halting speech, and would leave out articles such as "the" and
say, left car to go into house, and saw husband at top of 
stairs,
but this was gone in < 30 seconds, and did not reoccur. 
Currently
language is fluent with intact repetition and comprehension. 
Normal prosody.  There were no paraphasic errors.  Pt. was able
to name both high and low frequency objects.  Able to read
without difficulty.  Speech was not dysarthric. Able to follow
both midline and appendicular commands. Pt. was able to register
3 objects and recall ___ at 5 minutes.  The pt. had good
knowledge of current events.  There was no evidence of apraxia 
or
neglect. 

-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk.  VFF to confrontation.III, IV, VI:
EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 
Patient was cold and had a high amplitude, high frequency tremor
in all limbs, improved after warming and calming patient down.
  Delt Bic Tri WrE FFl FE IP Quad Ham TA Gastroc
L  5    ___   ___   5    5  5     5   
R  5    ___   ___   5    5  5     5   
 
-Sensory: No deficits to light touch, cold sensation, vibratory
sense, proprioception throughout. No extinction to DSS. 
 
-DTRs: 
  Bi Tri ___ Pat Ach 
L  1  1    1    1   0 
R  1  1    1    1   0 
Plantar response was flexor bilaterally. 
 
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. 
 
-Gait: Good initiation. Very hesitant gait but narrow-based. 
Unsteady standing but didn't fall, had romberg on first testing
not on second time

 
Pertinent Results:
Echo: 
The left atrium is normal in size. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. Left ventricular wall thicknesses are 
normal. The left ventricular cavity is unusually small. Left 
ventricular systolic function is hyperdynamic (EF>75%). Right 
ventricular chamber size and free wall motion are normal. There 
are focal calcifications in the aortic arch. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic regurgitation. The mitral valve leaflets 
are mildly thickened. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. There is borderline pulmonary 
artery systolic hypertension. There is no pericardial effusion.  
 

MRI head: 
No acute infarction or hemorrhage.

___ 09:26AM   cTropnT-<0.01
___ 09:26AM   WBC-5.6 RBC-4.37 HGB-14.7 HCT-41.3 MCV-95 
MCH-33.7* MCHC-35.5* RDW-12.8
 
Brief Hospital Course:
Mrs ___ was admitted as a code stroke. Her NIHSS was 0. 
She had undergone an MRI of the brain which was negative. An 
Echo was also completed which was unrevealing. There was no 
arrhythmia captured on overnight telemetry monitoring. She was 
started on aspirin 325mg daily along with lipitor 20mg. It was 
not clear what this event was but could have been a transient 
vascular event. She will follow up with neurology for further 
management.
 
Medications on Admission:
- Synthroid ___ qd
- Trileptal 200mg BID
- Nexium 40mg qd
- caltrate 1g daily
- b complex vitamins

 
Discharge Medications:
1. levothyroxine 137 mcg Capsule Sig: One (1) Tablet PO once a 
day.  
2. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
4. atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*20 Tablet(s)* Refills:*2*
5. oxcarbazepine 150 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day). Tablet(s) 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Possible Transient Ischemic Attack

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after an episode of double vision, slurred 
speech and difficulty walking that self resolved. Your brain MRI 
was normal. Your brain and neck vessels showed no obstruction. 
Your exhocardiogram was normal. You were started on aspirin and 
simvastatin.
 
Followup Instructions:
___